US06355636B1
[6-Fluoro-4-(3-nitrilo-propionyl)-pyridin-3-yl]-carbamic acid, tert-butyl ester
To 140 mL of 2.5 M n-butyllithium/hexanes in 300 mL of tetrahydrofuran at −78° C. was slowly added 14.4 g of anhydrous acetonitrile in 100 mL of tetrahydrofuran. After 30 minutes was added 32 g of 5-tert-butoxycarbonylamino-2-fluoro-isonicotinic acid, methyl ester in 100 mL of tetrahydrofaran. After a further 60 minutes, the reaction was quenched with 35 mL of glacial acetic acid. The reaction was diluted with equal volumes of ethyl acetate and saturated sodium bicarbonate and the aqueous phase was washed twice with ethyl acetate. The pooled organic phases were washed with saturated sodium bicarbonate, dried, and stripped of solvent. This material was further purified by passing through a plug of silica gel with a gradient of 0-5% methanol/chloroform to give a crude product that was used as is for the following step. This material can be further purified by recrystallization from chloroform/hexanes to give a white, crystalline solid: melting point 106-115° C.; mass spectrum (m/e): M+H 279.9.

reactant | acetonitrile | 14.4 g | C(C)#N | C2H3N
reactant | 5-tert-butoxycarbonylamino-2-fluoro-isonicotinic acid, methyl ester | 32 g | C(C)(C)(C)OC(=O)NC1=CN=C(C=C1C(=O)OC)F | C12H15FN2O4
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | [6-Fluoro-4-(3-nitrilo-propionyl)-pyridin-3-yl]-carbamic acid, tert-butyl ester | FC1=CC(=C(C=N1)NC(OC(C)(C)C)=O)C(CC#N)=O | C13H14FN3O3
